US04182881
C. N-[Dichlorophosphinyl]-3-phenoxybenzamide
A mixture containing 21.3 g (0.1 mole) of 3-phenoxybenzamide, 20.8 g (0.1 mole) of phosphorus pentachloride and 250 ml of Ar carbon tetrachloride was heated at 70° for 30 min. The resulting solution was cooled to 30° and 4.7 g (0.1 mole) of 97% formic acid added dropwise. Stirring was continued for 20 min., the reaction was filtered, washed with AR carbon tetrachloride and air-dried to give 31 g, m.p. 122°-125°.

reactant | 3-phenoxybenzamide | 0.1 mole, 21.3 g | O(C1=CC=CC=C1)C=1C=C(C(=O)N)C=CC1 | C13H11NO2
reactant | phosphorus pentachloride | 0.1 mole, 20.8 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | formic acid | 0.1 mole, 4.7 g | C(=O)O | CH2O2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-[Dichlorophosphinyl]-3-phenoxybenzamide | ClP(=O)(NC(C1=CC(=CC=C1)OC1=CC=CC=C1)=O)Cl | C13H10Cl2NO3P
